US07153878B2
[5-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetic acid ethyl ester (4.0 g, 12.22 mmol) in anhydrous tetrahydrofuran (100 mL) is cooled to 0° C. and a 1M LiAlH4 (12.2 mL, 12.2 mmol) solution is added slowly. The reaction is monitored by TLC until complete consumption of the starting material. The reaction is then carefully quenched with 2.4 mL water, 2.4 mL 5N NaOH and 7 mL water. The light tan solid is filter through celite and dried to give crude 2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethanol (2.74 g, 9.60 mmol) or 79% yield.

reactant | [5-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetic acid ethyl ester | 12.22 mmol, 4.0 g | C(C)OC(CC=1N=C(OC1CC)C1=CC=C(C=C1)C(F)(F)F)=O | C16H16F3NO3
reactant | LiAlH4 | 12.2 mmol, 1M, 12.2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-[5-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethanol | 9.60 mmol, 2.74 g, 79% yield | C(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CCO | C14H14F3NO2
